US08242143B2
Step 1: 3-fluoro-5-(4,4,5,5-tetramethyl-1,3.2-dioxaborolan-2-yl)benzonitrile
3-Bromo-5-fluorobenzonitrile (30.0 mmol, 9.23 g), bis(pinacolato)diboron (30.0 mmol, 7.62 g), PdCl2(dppf)2 (1:1 complex with dichloromethane, 1.2 mmol, 980 mg), and potassium acetate (105 mmol, 10.3 g) were combined in deoxygenated dioxane (150 mL) and heated at 80° C. for 4 hrs, at which time the reaction was determined to be complete by GC/MS analysis. The reaction was cooled to room temperature, and poured in to a separatory funnel containing EtOAc (300 mL) and water (200 mL). The aqueous layer was back extracted with EtOAc (75 mL), and the combined organic layers were dried over MgSO4, filtered, and concentrated in vacuo. The crude residue was carried on to the next step with out further purification or characterization.

reactant | 3-Bromo-5-fluorobenzonitrile | 30.0 mmol, 9.23 g | BrC=1C=C(C#N)C=C(C1)F | C7H3BrFN
reactant | bis(pinacolato)diboron | 30.0 mmol, 7.62 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 105 mmol, 10.3 g | C(C)(=O)[O-].[K+]
reactant | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
solvent | dioxane | 150 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf)2 | 1.2 mmol, 980 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 200 mL | O | H2O
product | 3-fluoro-5-(4,4,5,5-tetramethyl-1,3.2-dioxaborolan-2-yl)benzonitrile | FC=1C=C(C#N)C=C(C1)B1OC(C(O1)(C)C)(C)C | C13H15BFNO2
